US09062013B2
trans-N-(5-Chloro-2,4-dimethoxyphenyl)-2,2-dimethyl-3-phenylcyclopropanecarboxamide
2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid (500 mg, 2.63 mmol) and 5-chloro-2,4-dimethoxyaniline (493 mg, 2.63 mmol) were reacted as described under General Procedure D to furnish the title compound (620 mg, 66%) as a beige solid. 1H NMR (300 MHz, CDCl3) δ 8.49 (s, 1H), 7.78 (s, 1H), 7.30-7.19 (m, 5H), 6.53 (s, 1H), 3.94 (s, 3H), 3.89 (s, 3H), 2.83 (d, J=5.7 Hz, 1H), 1.86 (d, J=5.7 Hz, 1H), 1.42 (s, 3H), 0.97 (s, 3H). mp 160-162° C. ESIMS m/z [M+H]+ 360.2.

reactant | 2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid | 2.63 mmol, 500 mg | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C | C12H14O2
reactant | 5-chloro-2,4-dimethoxyaniline | 2.63 mmol, 493 mg | ClC=1C(=CC(=C(N)C1)OC)OC | C8H10ClNO2
product | trans-N-(5-Chloro-2,4-dimethoxyphenyl)-2,2-dimethyl-3-phenylcyclopropanecarboxamide | 620 mg, 66% | ClC=1C(=CC(=C(C1)NC(=O)[C@@H]1C([C@H]1C1=CC=CC=C1)(C)C)OC)OC | C20H22ClNO3
